US08420655B2
5-{2-[5-(2-Amino-pyrimidin-5-yl)-1-tert-butyl-1H-benzimidazol-2-yl]-phenyl}-3-methyl-3H-[1,3,4]oxadiazol-2-one
To a sealed vial is added 5-[2-(5-bromo-1-tert-butyl-1H-benzimidazol-2-yl)-phenyl]-3-methyl-3H-[1,3,4]oxadiazol-2-one (92 mg, 0.215 mmol) in DMF (3 mL), followed by the addition of 2-aminopyrimidine-5-boronic acid pinacol ester (57 mg, 0.258 mmol), tetrakis(triphenylphosphine)palladium(0) (25 mg, 0.022 mmol) and 2M aq. Na2CO3 (0.45 ml, 0.9 mmol). The reaction mixture is heated under Argon at 110° C. for 3 hours. The residue is diluted with EtOAc (20 mL), washed with brine, dried under anhydrous Na2SO4, filtered and concentrated. The residue is purified by silica gel flash column chromatography with 0-4% 7M NH3 in MeOH/CH2Cl2 as the eluent to afford the title compound (24 mg, 25%) as a off-white solid. LCMS (ESMS): m/z 442.43 (M++1).

reactant | 5-[2-(5-bromo-1-tert-butyl-1H-benzimidazol-2-yl)-phenyl]-3-methyl-3H-[1,3,4]oxadiazol-2-one | 0.215 mmol, 92 mg | BrC1=CC2=C(N(C(=N2)C2=C(C=CC=C2)C2=NN(C(O2)=O)C)C(C)(C)C)C=C1 | C20H19BrN4O2
reactant | 2-aminopyrimidine-5-boronic acid pinacol ester | 0.258 mmol, 57 mg | NC1=NC=C(C=N1)B1OC(C)(C)C(C)(C)O1 | C10H16BN3O2
reactant | Na2CO3 | 0.9 mmol, 2M, 0.45 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.022 mmol, 25 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-{2-[5-(2-Amino-pyrimidin-5-yl)-1-tert-butyl-1H-benzimidazol-2-yl]-phenyl}-3-methyl-3H-[1,3,4]oxadiazol-2-one | 24 mg, 25% | NC1=NC=C(C=N1)C1=CC2=C(N(C(=N2)C2=C(C=CC=C2)C2=NN(C(O2)=O)C)C(C)(C)C)C=C1 | C24H23N7O2
